US04150135
A. 4a-Phenyl-1,3-diketo-trans-decahydroisoquinoline
4a-Phenyl-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline (3.0 g, 12.45 mmoles) from Ex. 1B was dissolved in 100 ml of glacial acetic acid and 50 ml of dioxane. The catalyst, 5% palladium on carbon (700 mg), was added and the mixture was hydrogenated under 40 psi of hydrogen for 24 hours in a Parr shaker. The catalyst was then filtered off and the filtrate evaporated. The white crystalline 4a-phenyl-1,3-diketo-trans-decahydroisoquinoline was recrystallized from ethanol, mp 180°-182.5°.

reactant | 4a-Phenyl-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline | 12.45 mmoles, 3.0 g | C1(=CC=CC=C1)C12CC(NC(C2=CCCC1)=O)=O | C15H15NO2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on carbon | 700 mg | [Pd] | Pd
product | 4a-Phenyl-1,3-diketo-trans-decahydroisoquinoline | C1(=CC=CC=C1)[C@@]12CC(NC([C@@H]2CCCC1)=O)=O | C15H17NO2
